US04348264
Benzhydryl 1-Hydroxy-2-methylcarbapenam-3-carboxylate
By the procedures of Example 3, benzhydryl 2-methyl-1-oxocarbapenam-3-carboxylate (53 mg. in 3 ml. of methylene chloride employing only the 10 mg. reducing agent initially charged) was converted to purified benzhydryl 1-hydroxy-2-methylcarbapenam-3-carboxylate [53 mg.; Rf 0.30 (4:1 chloroform:ethyl acetate)].

reactant | benzhydryl 2-methyl-1-oxocarbapenam-3-carboxylate | CC1C([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2)=O)=O | C21H19NO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzhydryl 1-Hydroxy-2-methylcarbapenam-3-carboxylate | OC1C(C(N2[C@H]1CC2=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C21H21NO4
